US06194409B1
5.8 g of di-t-butyl dicarbonate was added to a solution of 3.13 g of 4-hydroxypiperidine in 29 mL of tetrahydrofuran and 7 mL of pyridine. After 16 hours at room temperature the mixture was concentrated and coevaporated with toluene. The residue was dissolved in 23 mL of tetrahydrofuran and 3.3 mL of methyl iodide was added. To this solution 1.2 g of sodium hydride (60% dispersion) was added in small potions. After stirring for 2 hours at room temperature methanol was added carefully to destroy the excess sodium hydride. The reaction mixture was concentrated in vacuo. Water was added, the pH adjusted to 4 and extracted with ethyl acetate. The ethyl acetate extract was dried (MgSO4) and concentrated. Column chromatography (silica gel, toluene/ethyl acetate: 4/1) yielded 2.7 g of 1-Boc-4-methoxypiperidine. This compound was cooled at 0° C. and 30 mL of 3N hydrochloric acid in methanol was added. After stirring for 19 hours at room temperature the reaction mixture was concentrated to give 2.4 g of 4-methoxypiperidine hydrochloride. 1H-NMR 200 MHz (CD3OD) δ: 1.76-2.12 (4H, m), 3.03-3.61 (5H, m), 3.36 (3H, s).

reactant | di-t-butyl dicarbonate | 5.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-hydroxypiperidine | 3.13 g | OC1CCNCC1 | C5H11NO
reactant | tetrahydrofuran | 29 mL | O1CCCC1 | C4H8O
solvent | pyridine | 7 mL | N1=CC=CC=C1 | C5H5N
product | 1-Boc-4-methoxypiperidine | 2.7 g | C(=O)(OC(C)(C)C)N1CCC(CC1)OC | C11H21NO3
